US04835175
2.26 g of 7-benzyloxy-4-formylindole-2-carboxylic acid ethyl ester is heated in a mixture of 15 ml of 1N sodium hydroxide solution and 15 ml of ethanol for one hour to 100° C. The ethanol is then distilled off under vacuum, the mixture is acidified with 10% hydrochloric acid and the precipitate is vacuum-filtered. The product is recrystallized from glacial acetic acid, thus obtaining 2.22 g of 7-benzyloxy-4-formylindole-2-carboxylic acid, mp 207° C.

reactant | 7-benzyloxy-4-formylindole-2-carboxylic acid ethyl ester | 2.26 g | C(C)OC(=O)C=1NC2=C(C=CC(=C2C1)C=O)OCC1=CC=CC=C1 | C19H17NO4
solvent | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 7-benzyloxy-4-formylindole-2-carboxylic acid | 2.22 g | C(C1=CC=CC=C1)OC=1C=CC(=C2C=C(NC12)C(=O)O)C=O | C17H13NO4
